US07112638B2
Synthesis of chlorodimethyl-(2-phenyl-1-indenyl)silane
A solution of 0.96 g (5.0 mmol) of 2-phenylindene in 30 mL of Et2O was treated at −70° C. with 3.13 mL (5.0 mmol) of a 1.6 M solution of n-BuLi. After the addition, the mixture was allowed to warm to room temperature and stirred for 50 min. Then it was cooled again to −70° C. and treated with a solution of 0.65 g (5.0 mmol) of Me2SiCl2 in 10 mL of ether. When the addition was completed, the mixture was allowed to reach room temperature and stirred overnight. The resulting reaction mixture was filtered to remove LiCl and the solvent was removed under reduced pressure. The crude product was used in the next step without further purification.

reactant | 2-phenylindene | 5.0 mmol, 0.96 g | C1(=CC=CC=C1)C=1CC2=CC=CC=C2C1 | C15H12
reactant | n-BuLi | [Li]CCCC
reactant | Me2SiCl2 | 5.0 mmol, 0.65 g | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
solvent | Et2O | 30 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | chlorodimethyl-(2-phenyl-1-indenyl)silane | Cl[Si](C1C(=CC2=CC=CC=C12)C1=CC=CC=C1)(C)C | C17H17ClSi
